US05968934
2-(R)-(1-(S)-(3,5-Bis(trifluoromethyl)phenyl)-2-hydroxyethoxy)-4-(2-amino-5-thiazolyl)-3-(S)-(4-fluorophenyl)morpholine
To a degassed solution of 2-(R)-(1-(S)-(3,5-bis(trifluoromethyl) -phenyl)-2-hydroxyethoxy)-3-(S)-(4-fluorophenyl)morpholine (0.2 g), 2-amino-5-bromothiazole (0.14 g), sodium tert-butoxide (0.0105 g) and tri-o-tolylphosphine (0.007 g) in dioxane (4 ml) was added tris(dibenzylideneacetone)dipalladium (0) (0.02 g). The solution was degassed and then heated at 80° C. for 24 h under an atmosphere of nitrogen. The solvent was removed in vacuo and the residue partitioned between ethyl acetate and water. The organic layer was dried (MgSO4) and after evaporation of the solvent the residue was chromatographed on silica (eluting with gradient of 2% -4% methanol/ammonia (100:3) in dichloromethane) to give the title compound. 1H NMR (360 MHz, CDCl3) δ3.11 (1H, td, J=11.7 Hz, 3.5 Hz), 3.19 (1H, bd J=11.4 Hz), 3.61 (1H, dd, J=12.2 Hz and 3.3 Hz), 3.67-3.81 (3H, m), 4.47 (1H, d, J=2.8 Hz), 4.54 (1H, td, J=11.7 Hz and 2.8 Hz), 4.80 (2H, bs), 4.92 (1H, dd, J=7.8 Hz and 3.1 Hz), 6.97 (2H, t, J=8.7 Hz), 7.09 (1H, s), 7.14 (2H, s), 4.91 (1H, dd, J=7.8 Hz and 3.1 Hz), 7.67 (1H, s); m/z EI+ 552(M+H).

reactant | 2-(R)-(1-(S)-(3,5-bis(trifluoromethyl) -phenyl)-2-hydroxyethoxy)-3-(S)-(4-fluorophenyl)morpholine | 0.2 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](CO)O[C@@H]1[C@@H](NCCO1)C1=CC=C(C=C1)F)(F)F | C20H18F7NO3
reactant | 2-amino-5-bromothiazole | 0.14 g | NC=1SC(=CN1)Br | C3H3BrN2S
reactant | sodium tert-butoxide | 0.0105 g | CC(C)([O-])C.[Na+]
reactant | tri-o-tolylphosphine | 0.007 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(R)-(1-(S)-(3,5-Bis(trifluoromethyl)phenyl)-2-hydroxyethoxy)-4-(2-amino-5-thiazolyl)-3-(S)-(4-fluorophenyl)morpholine | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](CO)O[C@@H]1[C@@H](N(CCO1)C1=CN=C(S1)N)C1=CC=C(C=C1)F)(F)F | C23H20F7N3O3S
